US05158971
1-Hydroxy-1-[5-(6,6,6-trifluorohexyl)thien-2-yl methyl]urea
To a solution of N-[5-(6,6,6-trifluorohexyl)thien-2-ylmethyl]hydroxylamine (1.4 g) in dioxan (50 ml) under nitrogen with stirring, was added trimethylsilyl isocyanate (1.42 ml) and the reaction mixture stirred for 1 hour, poured onto 2N hydrochloric acid (100 ml), extracted with ether (2×100 ml), dried over magnesium sulphate and evaporated under reduced pressure to give a pale yellow oil. The oil was flash chromatographed on a Sorbsil C60-40/60H column using 4:1 hexane/ethyl acetate to give a white solid. Recrystallised from ether/petroleum ether (40°-60° C.) to give a white crystlline solid m.p. 94° C.

reactant | N-[5-(6,6,6-trifluorohexyl)thien-2-ylmethyl]hydroxylamine | 1.4 g | FC(CCCCCC1=CC=C(S1)CNO)(F)F | C11H16F3NOS
reactant | trimethylsilyl isocyanate | 1.42 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 1-Hydroxy-1-[5-(6,6,6-trifluorohexyl)thien-2-yl methyl]urea | ON(C(=O)N)CC=1SC(=CC1)CCCCCC(F)(F)F | C12H17F3N2O2S
